US07135587B2
2.6 ml of diisopropylethylamine are added to a solution of 0.9 g of 3-(pyridin-2-ylamino)propan-1-ol in 3 ml of N,N-dimethylformamide. This solution is subsequently added dropwise to a solution of 1 g of 4-nitrophenyl chloroformate in 10 ml of dichloromethane. After the mixture has been stirred at room temperature for 1 hour, 0.7 g of tert-butyl aminoacetate and 0.8 ml of DIPEA are added, and the mixture is stirred for a further 2 hours. Conventional work-up gives tert-butyl [3-(pyridin-2-ylamino)propoxycarbonylamino]acetate, Rf=0.488 (ethyl acetate).

reactant | diisopropylethylamine | 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(pyridin-2-ylamino)propan-1-ol | 0.9 g | N1=C(C=CC=C1)NCCCO | C8H12N2O
reactant | 4-nitrophenyl chloroformate | 1 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | tert-butyl aminoacetate | 0.7 g | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | DIPEA | 0.8 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [3-(pyridin-2-ylamino)propoxycarbonylamino]acetate | N1=C(C=CC=C1)NCCCOC(=O)NCC(=O)OC(C)(C)C | C15H23N3O4
